US09447035B2
Step 6: Preparation of (S)-2-[[1-(4-azidobutyl)cyclopentanecarbony]amino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester:
The title compound was prepared using a similar procedure as described in Example 1, Step 8, starting from (S)-2-amino-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester (10.78 g, 30 mmol), 1-[4-azidobutyl]cyclopentanecarboxylic acid (8.24 g, 39 mmol), HBTU (14.79 g, 39 mmol), and DIPEA (11.63 g, 15.68 mL, 90 mmol), and after ISCO column chromatography purification, resulted in an amorphous off-white solid (14.1 g, 85%). ES(+)-HRMS m/e calcd. for C29H40N6O5 (M+H)+ 553.3133, obsd. 553.3133.

reactant | (S)-2-amino-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 30 mmol, 10.78 g | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)N)=O | C19H25N3O4
reactant | 1-[4-azidobutyl]cyclopentanecarboxylic acid | 39 mmol, 8.24 g | N(=[N+]=[N-])CCCCC1(CCCC1)C(=O)O | C10H17N3O2
reactant | HBTU | 39 mmol, 14.79 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 90 mmol, 15.68 mL, 11.63 g | CCN(C(C)C)C(C)C | C8H19N
product | (S)-2-[[1-(4-azidobutyl)cyclopentanecarbony]amino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(=O)C1(CCCC1)CCCCN=[N+]=[N-])=O | C29H40N6O5
